US05234821
In a 7% ammonia solution in methanol were dissolved 2.6 g of 2,3-dichlorobenzaldehyde and 5.8 g of benzyl acetoacetate, and the solution was stirred in a closed tube at 90° C. for 10 hours, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/4) to obtain 4.8 g (yield: 30%) of dibenzyl 4-(2,3-dichlorophenyl) -1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate as a yellow crystal.

reactant | 2,3-dichlorobenzaldehyde | 2.6 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | benzyl acetoacetate | 5.8 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | dibenzyl 4-(2,3-dichlorophenyl) -1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 4.8 g, yield: 30% | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OCC1=CC=CC=C1)C)C)C(=O)OCC1=CC=CC=C1 | C29H25Cl2NO4
